US20010007873A1
B. 6-[2-Cyclopropyl-4-(2-dimethylamino-1-methyl-ethoxy)-phenyl]-pyridin-2-ylamine
Prepared by a lithium aluminum hydride (LiAIH4) reduction of 2-[4-(6-amino-pyridin-2-yl)-3-cyclopropyl-phenoxy]-N,N-dimethyl-propionamide, as described in Example 28, in 51.4% yield.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[4-(6-amino-pyridin-2-yl)-3-cyclopropyl-phenoxy]-N,N-dimethyl-propionamide | NC1=CC=CC(=N1)C1=C(C=C(OC(C(=O)N(C)C)C)C=C1)C1CC1 | C19H23N3O2
product | 6-[2-Cyclopropyl-4-(2-dimethylamino-1-methyl-ethoxy)-phenyl]-pyridin-2-ylamine | 51.4% yield | C1(CC1)C1=C(C=CC(=C1)OC(CN(C)C)C)C1=CC=CC(=N1)N | C19H25N3O
